US09278950B2
Step 8: tert-Butyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-3-yl]carbamate
To di-tert-butyl {4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}imidodicarbonate (77 mg, 0.13 mmol), 4.0 M HCl in dioxane (1.0 mL, 4.0 mmol) was added. After 1 h, the volatile solvents were removed under reduced pressure then the residue (HCl salt) was dried under high vacuum for 20 min. The residue was dissolved in DCM (0.9 mL) at 0° C. and DIPEA (0.35 mL, 2.0 mmol) and 1-[(tert-butoxycarbonyl)oxy]pyrrolidine-2,5-dione (28.9 mg, 0.134 mmol) were added. The mixture was stirred at room temperature for 90 min., then quenched with aq. NaHCO3 and diluted with EtOAc. The aqueous layer was separated and extracted with EtOAc (×2). The combined organic layers were dried, then concentrated under reduced pressure to give a yellow residue. The residue was purified by chromatography on silica using a CombiFlash® apparatus (0 to 25% MeOH in hexanes) to give the sub-title compound as a light yellow powder (36 mg, 72%). LCMS calc. for C18H28N7O2 (M+H)+: m/z=374.2. Found: 374.2.

reactant | di-tert-butyl {4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}imidodicarbonate | 0.13 mmol, 77 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1N1N=NC=C1)C)C1=C(C=NC=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H43N7O6
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 4.0 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
reactant | DIPEA | 2.0 mmol, 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[(tert-butoxycarbonyl)oxy]pyrrolidine-2,5-dione | 0.134 mmol, 28.9 mg | C(C)(C)(C)OC(=O)ON1C(CCC1=O)=O | C9H13NO5
product | tert-Butyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-3-yl]carbamate | 36 mg, 72% | NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)N1N=NC=C1)NC(OC(C)(C)C)=O | C18H27N7O2
